US05739162
Tert-butyl ((2-iodophenyl)-(2-(3-m-tolylureido)acetyl)amino)acetate 24
To a solution of N-(2-iodophenyl)-2-(3-m-tolylureido)acetamide (1.02 g, 2.5 mmol) in DMSO (5 ml) are added at room temperature potassium iodide (83 mg, 0.2 mmol), tetra-n-butylammonium bromide (81 mg, 0.1 mmol), t-butylbromoacetate (0.55 ml, 3.75 mmol) and potassium carbonate (1.04 g, 7.5 mmol), and stirred at room temperature for 2.25 hours. To the reaction mixture are added water and ethyl acetate, and the pH is adjusted to 2 with 2N hydrochloric acid. The aqueous layer is extracted twice with ethyl acetate. The organic layer is washed with 0.1N hydrochloric acid, water and saturated saline, dried over anhydrous magnesium sulfate, and then concentrated. To the residue is added isopropylether, and the precipitated solid is filtered off to obtain the objective compound (1.20 g). Yield 92%.

reactant | N-(2-iodophenyl)-2-(3-m-tolylureido)acetamide | 2.5 mmol, 1.02 g | IC1=C(C=CC=C1)NC(CNC(=O)NC=1C=C(C=CC1)C)=O | C16H16IN3O2
reactant | potassium iodide | 0.2 mmol, 83 mg | [I-].[K+]
reactant | t-butylbromoacetate | 3.75 mmol, 0.55 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | potassium carbonate | 7.5 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
catalyst | tetra-n-butylammonium bromide | 0.1 mmol, 81 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Tert-butyl ((2-iodophenyl)-(2-(3-m-tolylureido)acetyl)amino)acetate | 1.20 g, Yield 92% | IC1=C(C=CC=C1)N(C(CNC(=O)NC=1C=C(C=CC1)C)=O)CC(=O)OC(C)(C)C | C22H26IN3O4
